US07816522B2
(3c) (2-fluoro-5-methoxy-3-triisopropylsilanyloxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile
After adding 5.47 g of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 10.2 g of 2-fluoro-5-methoxy-3-triisopropylsilanyloxybenzaldehyde, 10 g of MS3A and 6.2 ml of trimethylsilyl cyanide to a solution of 1.94 g of Yb(OTf)3 in 100 ml of dichloromethane under a nitrogen atmosphere, the mixture was stirred for 3 days at room temperature. Ethyl acetate was added to the reaction mixture, and washing was performed with water. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (9.01 g) as a light yellow solid.

reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 5.47 g | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 2-fluoro-5-methoxy-3-triisopropylsilanyloxybenzaldehyde | 10.2 g | FC1=C(C=O)C=C(C=C1O[Si](C(C)C)(C(C)C)C(C)C)OC | C17H27FO3Si
reactant | trimethylsilyl cyanide | 6.2 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | Yb(OTf)3 | 1.94 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-fluoro-5-methoxy-3-triisopropylsilanyloxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | 9.01 g | FC1=C(C=C(C=C1O[Si](C(C)C)(C(C)C)C(C)C)OC)C(C#N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H35FN4O3Si
